US09326973B2
A solution of (bromomethyl)benzene (564 mg) in CHCl3 (1 mL) was added to a stirred solution of 6-oxospiro[3.3]heptane-2-carboxylic acid (462 mg) and DIPEA (0.576 mL) in acetonitrile (2 mL) and CHCl3 (2 mL) and the mixture was stirred at rt overnight. The reaction mixture was evaporated to dryness and then purified by silica gel FCC (1:1 DCM:hexanes) to afford benzyl 6-oxospiro[3.3]heptane-2-carboxylate as a clear oil.

reactant | (bromomethyl)benzene | 564 mg | BrCC1=CC=CC=C1 | C7H7Br
reactant | 6-oxospiro[3.3]heptane-2-carboxylic acid | 462 mg | O=C1CC2(CC(C2)C(=O)O)C1 | C8H10O3
reactant | DIPEA | 0.576 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | benzyl 6-oxospiro[3.3]heptane-2-carboxylate | O=C1CC2(CC(C2)C(=O)OCC2=CC=CC=C2)C1 | C15H16O3
